US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(2,3-dichlorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (400 mg, 1.15 mmol) and 2,3-dichlorophenylboronic acid (329 mg, 1.72 mmol) the subtitle compound was obtained (288 mg, 60%). MS 415 m/z (M+H)+.

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 1.15 mmol, 400 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 2,3-dichlorophenylboronic acid | 1.72 mmol, 329 mg | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(2,3-dichlorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=C(C(=CC=C2)Cl)Cl | C20H12Cl2N2O4
